US07632948B2
The reaction mixture was added a solution of Boc2O (6.7 g, 310 mmol) in acetonitrile (150 mL), followed by a solution of DMAP (2 g, 16.4 mmol) in acetonitrile (30 mL). The reaction mixture was then stirred at 40° C. until TLC (EtOAc:PE60/80=1:5) indicated complete conversion of the intermediate N-Boc-O-benzylhydroxylamine (approx. 2 hours). The reaction mixture was evaporated to dryness and re-dissolved in EtOAc (200 mL). The organic phase was washed with a mixture of 1M phosphate buffer pH=7 (100 mL) and NaCl (aq., sat.) (50 mL). The organic phase was dried with Na2SO4, filtered and evaporated to dryness to give an oil, which precipitated upon trituration by PE40/60 (20 mL). The precipitated was isolated by filtration to give 56 g (92%) of N,N-diBoc-O-benzylhydroxylamine as a white solid.

reactant | Boc2O | 310 mmol, 6.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | N-Boc-O-benzylhydroxylamine | C(=O)(OC(C)(C)C)NOCC1=CC=CC=C1 | C12H17NO3
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
catalyst | DMAP | 16.4 mmol, 2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N,N-diBoc-O-benzylhydroxylamine | 56 g, 92% | C(=O)(OC(C)(C)C)N(OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H25NO5
